US05482949
Preparation of [6-[N-(4-Chlorophenyl)carbamoyl]-2-[4-[N-(4-chlorophenyl)carbamoyl]phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone.
5.56 g (10.7 mmol) of [6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone was dissolved in 200 mL of dry THF and 5.45 g (35.2 mmol) of 4-chlorophenyl isocynate was added. The reaction mixture was stirred at room temperature under an atmosphere of nitrogen. After 18 hours, the solvent was removed by evaporation in vacuo, and redissolved in CHCl3. The CHCl3 solution was cooled to -20° C. for 24 hours and the precipitate formed was filtered off. The remaining solution was chromatographed (Waters Prep 500, HPLC) on a silica gel column, eluted with a linear gradient of CHCl3 ending with CHCl3 --MeOH (19:l)(v/v). The desired fractions were determined by TLC, combined and evaporated to dryness to afford 4.01 g of the title compound as a tan amorphous powder.

reactant | [6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 10.7 mmol, 5.56 g | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C1 | C28H27NO4S
reactant | 4-chlorophenyl isocynate | 35.2 mmol, 5.45 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [6-[N-(4-Chlorophenyl)carbamoyl]-2-[4-[N-(4-chlorophenyl)carbamoyl]phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone | 4.01 g | ClC1=CC=C(C=C1)NC(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)C(NC2=CC=C(C=C2)Cl)=O)C1 | C42H35Cl2N3O4S
